US06953787B2
8-Chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine;
8-Bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 8-Iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 8-Trifluoromethyl-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 8-Trifluoromethyl-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 8-Chloro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 8-Bromo-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 8-Iodo-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 7,8-Dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 7,8-Dichloro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; 8-Chloro-7-fluoro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine; and 8-Chloro-7-fluoro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine; or a pharmaceutically acceptable salt, solvate or hydrate thereof.

reactant | 8-Bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | BrC=1C=CC2=C(C(CNCC2)C)C1 | C11H14BrN
reactant | 8-Iodo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | IC=1C=CC2=C(C(CNCC2)C)C1 | C11H14IN
reactant | 8-Trifluoromethyl-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | FC(C=1C=CC2=C(C(CNCC2)C)C1)(F)F | C12H14F3N
reactant | 8-Trifluoromethyl-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | FC(C=1C=CC2=C(C(CNCC2)CC)C1)(F)F | C13H16F3N
reactant | 8-Chloro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC=1C=CC2=C(C(CNCC2)CC)C1 | C12H16ClN
reactant | 8-Bromo-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | BrC=1C=CC2=C(C(CNCC2)CC)C1 | C12H16BrN
reactant | 8-Iodo-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | IC=1C=CC2=C(C(CNCC2)CC)C1 | C12H16IN
reactant | 7,8-Dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC2=C(C(CNCC2)C)C=C1Cl | C11H13Cl2N
reactant | 7,8-Dichloro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC2=C(C(CNCC2)CC)C=C1Cl | C12H15Cl2N
reactant | 8-Chloro-7-fluoro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC=1C(=CC2=C(C(CNCC2)C)C1)F | C11H13ClFN
reactant | 8-Chloro-7-fluoro-1-ethyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC=1C(=CC2=C(C(CNCC2)CC)C1)F | C12H15ClFN
product | 8-Chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC=1C=CC2=C(C(CNCC2)C)C1 | C11H14ClN
